US07855193B2
4-(5-isobutylbenzofuran-2-yl)benzaldehyde (Step 3 in Scheme 2)
A mixture of 5-isobutylbenzofuran-2-ylboronic acid (70 mg, 0.33 mmol), 4-bromobenzaldehyde (61 mg, 0.33 mmol), triethylamine (1.7 mL, 12.6 mmol) and bis(triphenylphosphine)palladium(II)chloride (12 mg, 0.017 mmol) in ethanol (10 mL) was irradiated in a microwave instrument at 100° C. for 20 min. The reaction mixture was cooled, and the solvent was removed. The residue was treated with water and extracted with ethyl acetate. The organic layer was dried and concentrated in vacuo (the aqueous work-up is optional). Purification by silica gel chromatography on ISCO system gave the title compound (59 mg, 65% yield): >99% purity by LCMS, ESI-MS: 279.2 (M+H)+.

reactant | 5-isobutylbenzofuran-2-ylboronic acid | 0.33 mmol, 70 mg | C(C(C)C)C=1C=CC2=C(C=C(O2)B(O)O)C1 | C12H15BO3
reactant | 4-bromobenzaldehyde | 0.33 mmol, 61 mg | BrC1=CC=C(C=O)C=C1 | C7H5BrO
reactant | triethylamine | 12.6 mmol, 1.7 mL | C(C)N(CC)CC | C6H15N
solvent | ethanol | 10 mL | C(C)O | C2H6O
catalyst | bis(triphenylphosphine)palladium(II)chloride | 0.017 mmol, 12 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
product | 4-(5-isobutylbenzofuran-2-yl)benzaldehyde | 59 mg, 65% yield | C(C(C)C)C=1C=CC2=C(C=C(O2)C2=CC=C(C=O)C=C2)C1 | C19H18O2
